US09388189B2
(S)-3-Hydroxy-5-(4-((1-(5-methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)-7H-pyrrolo[2,3-d]pyrimidin-5-yl)benzonitrile
(S)-3-Methoxy-5-(4-((1-(5-methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-5-yl)benzonitrile (34 mg, 0.05 mmol) was treated with boron tribromide (1M in dichloromethane, 526 μL, 0.53 mmol) in dichloromethane (680 μL) and then with a solution of ammonia (7N in methanol, 680 μl, 4.76 mmol) according to the method described in Example 41. The residue was purified using SP1® Purification System (0% to 15% dichloromethane-2-propanol) to obtain 19 mg (69% yield) of the title compound.

reactant | (S)-3-Methoxy-5-(4-((1-(5-methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-5-yl)benzonitrile | 0.05 mmol, 34 mg | COC=1C=C(C#N)C=C(C1)C1=CN(C=2N=CN=C(C21)N[C@@H](C)C2=NN1C(C(N2C2=CC=CC=C2)=O)=C(C=C1)C)COCC[Si](C)(C)C | C35H38N8O3Si
reactant | boron tribromide | 0.53 mmol, 1M, 526 μL | B(Br)(Br)Br | BBr3
reactant | ammonia | 4.76 mmol, 7N, 680 μl | N | H3N
solvent | dichloromethane | 680 μL | ClCCl | CH2Cl2
product | (S)-3-Hydroxy-5-(4-((1-(5-methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)-7H-pyrrolo[2,3-d]pyrimidin-5-yl)benzonitrile | 19 mg, 69% yield | OC=1C=C(C#N)C=C(C1)C1=CNC=2N=CN=C(C21)N[C@@H](C)C2=NN1C(C(N2C2=CC=CC=C2)=O)=C(C=C1)C | C28H22N8O2
